US08207370B2
Production of ethyl 2-acetylamino-3-oxooctadecanoate
A dichloromethane solution (45.0 ml) of N-acetylglycine ethyl ester (1.50 g, 10.33 mmol) and N-methylimidazole (1.02 mg, 12.40 mmol) was cooled to −45° C., and palmitoyl chloride (2.84 g, 10.33 mmol) was added thereto in nitrogen atmosphere. After the mixture was stirred for 20 minutes at the same temperature, titanium tetrachloride (6.86 mg, 36.16 mmol) and triethylamine (4.18 g, 41.31 mmol) were added thereto. The resulting mixture was stirred for 2 hours at −45° C. Water (20 mL) was added thereto, and the mixture was heated to room temperature, and the organic layer was separated. It was confirmed by comparative analysis with sample product using HPLC that the organic layer contained 2.81 g of the title compound (yield: 71%).

reactant | N-acetylglycine ethyl ester | 10.33 mmol, 1.50 g | C(C)OC(CNC(C)=O)=O | C6H11NO3
reactant | N-methylimidazole | 12.40 mmol, 1.02 mg | CN1C=NC=C1 | C4H6N2
reactant | palmitoyl chloride | 10.33 mmol, 2.84 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | triethylamine | 41.31 mmol, 4.18 g | C(C)N(CC)CC | C6H15N
catalyst | titanium tetrachloride | 36.16 mmol, 6.86 mg | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | 20 mL | O | H2O
solvent | dichloromethane | 45.0 ml | ClCCl | CH2Cl2
product | ethyl 2-acetylamino-3-oxooctadecanoate | 2.81 g, yield: 71% | C(C)(=O)NC(C(=O)OCC)C(CCCCCCCCCCCCCCC)=O | C22H41NO4
